US05733931
Trans-1,4-bis[[1-cyclohexyl-3-(4-aminophenyl)ureido]methyl]cyclohexane
A 0.6 g quantity of 10% palladium carbon was added to 100 ml of a DMF solution containing 5.7 g of trans-1,4-bis[[1-cyclohexyl-3-(4-nitrophenyl)ureido]-metyl]cyclohexane synthesized in accordance with Example 2. Hydrogen was added at ordinal pressure and normal temperature for 15 hours. After completion of the reaction, palladium was separated by filtration and the reaction mixture was concentrated under reduced pressure. The reaction mixture was dissolved in chloroform and a 4N hydrochloric acid-dioxyane solution was added to provide 5.5 g (95%) of white crystals precipitated.

reactant | trans-1,4-bis[[1-cyclohexyl-3-(4-nitrophenyl)ureido]-metyl]cyclohexane | 5.7 g | C1(CCCCC1)N(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C[C@@H]1CC[C@H](CC1)CN(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C1CCCCC1 | C34H46N6O6
reactant | Hydrogen | [H][H] | H2
catalyst | palladium carbon | [C].[Pd]
catalyst | palladium | [Pd] | Pd
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Trans-1,4-bis[[1-cyclohexyl-3-(4-aminophenyl)ureido]methyl]cyclohexane | 5.5 g, 95% | C1(CCCCC1)N(C(=O)NC1=CC=C(C=C1)N)C[C@@H]1CC[C@H](CC1)CN(C(=O)NC1=CC=C(C=C1)N)C1CCCCC1 | C34H50N6O2
